US07683060B2
Step 2. 3-Hydrazino-6-phenyl-1,2,4-triazin-5(4H)-one
To 3-(methylthio)-6-phenyl-1,2,4-triazin-5(4H)-one (4.3 g) in isopropyl alcohol (40 mL) was added hydrazine (6.41 g, 0.200 mol). The reaction mixture was refluxed for 10 h. After cooling, the crystalline solid formed was filtered and washed with isopropyl alcohol. The crystalline solid was collected and dried in vacuo to afford the desired product. Analytical LCMS: (M+H)+=204.1.

reactant | 3-(methylthio)-6-phenyl-1,2,4-triazin-5(4H)-one | 4.3 g | CSC1=NN=C(C(N1)=O)C1=CC=CC=C1 | C10H9N3OS
reactant | hydrazine | 0.200 mol, 6.41 g | NN | H4N2
solvent | isopropyl alcohol | 40 mL | C(C)(C)O | C3H8O
product | 3-Hydrazino-6-phenyl-1,2,4-triazin-5(4H)-one | N(N)C1=NN=C(C(N1)=O)C1=CC=CC=C1 | C9H9N5O
